US04843073
1-(t-Butyl)-10-methoxy-6-methyl-8β-hydroxymethylergoline
A solution of 6 g of 1-(t-butyl)-9,10-didehydro-6- methyl-8β-hydroxymethyl-ergoline, prepared as described in Example 1, in 500 ml of methanol and 5 ml of sulphuric acid was irradiated at 20° C. in a Pyrex flask with a Hanau PL 321 lamp for about 6 hours, until the absorption at 315 nm completely disappeared. The solution was diluted with iced water, made basic with ammonium hydroxide, evaporated to 100 ml and extracted with ethyl acetate. After evaporation of the solvent the residue was chromatographed in silica gel and on elution with 97:3 dichloromethane:methanol, 5 g of the title compound was isolated, m.p. 172° to 174° C. from acetone.

reactant | 1-(t-butyl)-9,10-didehydro-6- methyl-8β-hydroxymethyl-ergoline | 6 g | C(C)(C)(C)N1C=C2C[C@H]3N(C[C@@H](C=C3C=3C=CC=C1C32)CO)C | C20H26N2O
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | methanol | 500 ml | CO | CH4O
solvent | water | O | H2O
product | 1-(t-Butyl)-10-methoxy-6-methyl-8β-hydroxymethylergoline | 5 g | C(C)(C)(C)N1C=C2C[C@H]3N(C[C@@H](C[C@@]3(C=3C=CC=C1C32)OC)CO)C | C21H30N2O2
